US08710049B2
1-Benzyl-3-piperidone hydrochloride monohydrate (5.93 g, 26.3 mmol) was partitioned between a saturated aqueous NaHCO3 solution (30 ml) and CH2Cl2 (50 mL). The organic layer was separated and dried over Na2SO4 and filtered. The filtrated was collected and (1R,2R)-cyclohexane-1,2-diamine (3 g, 26.3 mmol) was added followed by sodium triacetoxy borohydride (8.35 g, 39.4 mmol). The reaction was stirred at rt overnight. After this time, the reaction was quenched with water (2 ml). The resulting solution was washed with saturated aqueous NaHCO3 (50 ml) and saturated NaCl (50 ml). The organic layer was dried over MgSO4, filtered and concentrated. The resulting residue was purified by RP Prep-HPLC. The desired fractions containing the product were concentrated to give the product, (1R,2R)—N1-(1-benzylpiperidin-3-yl)cyclohexane-1,2-diamine (3.01 g, 10.47 mmol, 40% yield) as a trifluoroacetate salt and as a white solid. 1H NMR (500 MHz, MeOH-d3) δ ppm 7.54-7.36 (m, 5H), 4.27-3.99 (m, 2H), 3.24-2.94 (m, 3H), 2.69 (d, J=9.90 Hz, 2H), 2.46-2.27 (m, 1H); 2.25-2.02 (m, 2H); 2.03-1.83 (m, 2H); 1.83-1.62 (m, 4H); 1.47-1.19 (m, 4H); 1.05 (d, J=11.55 Hz, 1H). 13C NMR (126 MHz, MeOH-d3) δ ppm 132.27, 130.75, 130.25, 62.31, 58.81, 56.46, 53.57, 32.76, 31.33, 25.99, 25.73, 25.40

reactant | 1-Benzyl-3-piperidone hydrochloride monohydrate | 26.3 mmol, 5.93 g | O.Cl.C(C1=CC=CC=C1)N1CC(CCC1)=O
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
reactant | (1R,2R)-cyclohexane-1,2-diamine | 26.3 mmol, 3 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | sodium triacetoxy borohydride | 39.4 mmol, 8.35 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R)—N1-(1-benzylpiperidin-3-yl)cyclohexane-1,2-diamine | 10.47 mmol, 3.01 g, 40% yield | C(C1=CC=CC=C1)N1CC(CCC1)N[C@H]1[C@@H](CCCC1)N | C18H29N3
